US07816557B2
Step A. 2-(4-Benzyloxy-phenyl)-5-trifluoromethyl-pyridine
A mixture of 2-chloro-5-trifluoromethylpyridine (1.81 g, 10 mmol), 4-benzyloxyphenyl boronic acid (2.74 g, 12 mmol) and CsF (5.32 g, 35 mmol) in dioxane (40 mL) is degaseed and filled with nitrogen. PdCl2(dppf) (200 mg) is added under nitrogen, the reaction mixture is heated at 105° C. overnight. The mixture is cooled to room temperature, diluted with ethyl acetate (100 mL), filtered through a pad of Celite. The filtrate is concentrated and the residue is purified by column chromatography on silica gel giving the title compound (2.55 g, 77.4%).

reactant | 2-chloro-5-trifluoromethylpyridine | 10 mmol, 1.81 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | 4-benzyloxyphenyl boronic acid | 12 mmol, 2.74 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | CsF | 35 mmol, 5.32 g | [F-].[Cs+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 200 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-Benzyloxy-phenyl)-5-trifluoromethyl-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F | C19H14F3NO
